US07842710B2
311 g 1-(2-nitrophenyl)ethanol (XI-1) (95.8% purity, 1.78 mol) are dissolved in 3000 ml dimethyl formamide in a 6 liter three-necked flask equipped with a stirrer, dropping funnel and thermometer. 921.4 g (7.13 mol) diisopropylethylamine are added in a single portion, stirred for 5 minutes, then 612.5 g (5.35 mol) methanesulfonyl chloride are added dropwise between 20 to 35° C. with good cooling. After the reaction has subsided, it is stirred for another 90 hours at room temperature, and the solvent is removed under vacuum. Then the residue dissolved in ethyl acetate, washed 3 times with water, dried over sodium sulfate and the solvent is removed under vacuum. The crude product is purified by column chromatography (silica gel, 9:1 hexane/acetone). 219 g of 1-(1-chloroethyl)-2-nitrobenzene (100% purity by HPLC, 66.2% theoretical yield) are obtained as a brown oil [logP (pH 2.3)=2.87].

reactant | 1-(2-nitrophenyl)ethanol | 1.78 mol, 311 g | [N+](=O)([O-])C1=C(C=CC=C1)C(C)O | C8H9NO3
reactant | diisopropylethylamine | 7.13 mol, 921.4 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 5.35 mol, 612.5 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dimethyl formamide | 3000 ml | CN(C=O)C | C3H7NO
product | 1-(1-chloroethyl)-2-nitrobenzene | 219 g | ClC(C)C1=C(C=CC=C1)[N+](=O)[O-] | C8H8ClNO2
